datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[C:23](=[O:24])[H:25]>>[C-:23]#[O+:24].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])([H:9])[H:25],0.0
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C-:3]#[O+:4].[C:0]([C:1](=[C:2]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7],288.696
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][O:16][C:15]([H:17])([H:18])[H:19],36.020056
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][H:17],18.706664
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](#[C:22][C:23]([H:25])[H:26])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22]#[C:21][H:24])([H:25])[H:26])[H:11],37.2794
[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[H:10]>>[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][H:10],28.4
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[O:11][O:12]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:7][O:11][O:12],193.2677464
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6][C:7](=[S:8])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6](=[C:5]([H:9])[H:10])[C:7](=[S:8])[H:11],87.864
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25],25.9408
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:19]([C:18](=[C:17]([H:23])[H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21](=[C:22]([H:30])[H:31])[H:29])[H:10])[H:9])([H:7])[H:8],65.5633
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([c:8]1[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]1[H:23])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([S:2][H:5])[H:17])([H:3])[H:4].[C:6]([C:7]([c:8]1[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]1[H:23])[H:18])([H:14])([H:15])[H:16],-24.2672
[C:0]([C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[Cl:17]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][Cl:17],1.24967
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14],30.7524
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]=[S:23])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:24])([H:25])[H:26])=[S:23],37.2376
[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])[H:4]>>[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5],167.958312
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([S:15][H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:22])([H:23])[H:24])([S:15][H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30],-8.7864
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]([c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20])[H:15]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:15])([H:3])([H:4])[H:5].[S:8][c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],-7.9496
